US06214869B1
(cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]butyramide
The title compound was prepared by the general procedure -described in Example 1 using (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine (0.79 mmol), triethylamine (2.37 mmol) and butyryl chloride (0.95 mmol). Purification by silica gel column chromatography (Hex:EtOAc, 2:1) provided 61 mg of the desired product (30%) as a white solid. HPLC purity=98%. m.p. 73-74°;

reactant | (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine | 0.79 mmol | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)NC | C12H15NO
reactant | triethylamine | 2.37 mmol | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 0.95 mmol | C(CCC)(=O)Cl | C4H7ClO
product | (cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]butyramide | 61 mg, 30% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CNC(CCC)=O | C16H21NO2
